US07767626B2
3.0 g (11.1 mmol) of 2-mercapto-4-(3-trifluoromethylpyrazolyl)benzonitrile in 5 ml of dimethyl sulfoxide was stirred at 50° C. for 2 hours. The reaction mixture was cooled to room temperature and poured into 50 ml of water, and the organic matters were extracted with 20 ml of ethyl acetate twice. The ethyl acetate layers were combined, then washed with 30 ml of water twice and dried over anhydrous magnesium sulfate, and the ethyl acetate was distilled off under reduced pressure. Purification of the residue afforded 1.3 g of 1,1′-thiodi-[2-cyano-5-(3-trifluoromethylpyrazolyl)benzene] (yield 42.4%) as a yellow solid, which was used in Example 2 (3) as the starting material.

reactant | 2-mercapto-4-(3-trifluoromethylpyrazolyl)benzonitrile | 11.1 mmol, 3.0 g | SC1=C(C#N)C=CC(=C1)C=1C(=NNC1)C(F)(F)F | C11H6F3N3S
reactant | water | 50 ml | O | H2O
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 1,1′-thiodi-[2-cyano-5-(3-trifluoromethylpyrazolyl)benzene] | 1.3 g, yield 42.4% | S(C1=C(C=CC(=C1)C=1C(=NNC1)C(F)(F)F)C#N)C1=C(C=CC(=C1)C=1C(=NNC1)C(F)(F)F)C#N | C22H10F6N6S
